US07381728B2
2-Chloro-N-[5-(cis-3,5-dimethyl-1-piperazinyl)-2-(methyloxy)phenyl]-4-(5-methyl-2-furanyl)benzenesulfonamide (E306)
To a mixture of 4-bromo-2-chloro-N-[5-(cis-3,5-dimethyl-1-piperazinyl)-2-(methyloxy)phenyl]benzenesulfonamide (E104) (220 mg, 0.45 mmol), (5-methyl-2-furanyl)boronic acid (113 mg, 0.90 mmol) and tetrakis(triphenylphosphine)palladium(0) (58 mg, 0.05 mmol) in DME (3 ml) was added potassium tert-butoxide (454 mg, 4.10 mmol) in water (1 ml), and the reaction heated in the microwave (set at high absorbance) at 100° C. for 30 minutes. The reaction was poured on to the SCX column eluting first with methanol and then 2M ammonia in methanol. The basic fractions were combined and solvent evaporated in vacuo. The product was purified by mass directed autoprep HPLC, the relevant fractions collected and solvent evaporated in vacuo. The product was triturated in ether to give the title compound (E306). MS (ES+) m/e 490/492 [M+H]+.

reactant | 4-bromo-2-chloro-N-[5-(cis-3,5-dimethyl-1-piperazinyl)-2-(methyloxy)phenyl]benzenesulfonamide | 0.45 mmol, 220 mg | BrC1=CC(=C(C=C1)S(=O)(=O)NC1=C(C=CC(=C1)N1C[C@H](N[C@H](C1)C)C)OC)Cl | C19H23BrClN3O3S
reactant | (5-methyl-2-furanyl)boronic acid | 0.90 mmol, 113 mg | CC1=CC=C(O1)B(O)O | C5H7BO3
reactant | potassium tert-butoxide | 4.10 mmol, 454 mg | CC(C)([O-])C.[K+]
solvent | DME | 3 ml | COCCOC | C4H10O2
solvent | water | 1 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.05 mmol, 58 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Chloro-N-[5-(cis-3,5-dimethyl-1-piperazinyl)-2-(methyloxy)phenyl]-4-(5-methyl-2-furanyl)benzenesulfonamide | ClC1=C(C=CC(=C1)C=1OC(=CC1)C)S(=O)(=O)NC1=C(C=CC(=C1)N1C[C@H](N[C@H](C1)C)C)OC | C24H28ClN3O4S
